US07491710B2
Phenylphosphonic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester methyl ester is prepared according to procedure F using 230 mg of phenyl-phosphonic acid bis-(4-nitrophenyl) ester in solution in 4 ml of dichloromethane to which is added a solution of 120 mg of 3-(1H-indol-2-yl)-1H-indazol-5-ol and 72 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene in 4 ml of dichloromethane. After stirring for 2 hours at ambient temperature, the medium is treated with 4 times 50 ml of a saturated sodium bicarbonate solution, and then with 2×50 ml of a saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and then concentrated to dryness to obtain 200 mg of crude phenylphosphonic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester methyl ester.

reactant | phenyl-phosphonic acid bis-(4-nitrophenyl) ester | 230 mg | [N+](=O)([O-])C1=CC=C(C=C1)OP(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)C1=CC=CC=C1 | C18H13N2O7P
reactant | 3-(1H-indol-2-yl)-1H-indazol-5-ol | 120 mg | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)O | C15H11N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 72 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | phenylphosphonic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester methyl ester | 200 mg | COP(OC=1C=C2C(=NNC2=CC1)C=1NC2=CC=CC=C2C1)(=O)C1=CC=CC=C1 | C22H18N3O3P
